US06831106B1
d) 1-{4-[3-(3,4-Bis(1-phenylmethanoyloxymethyl)-benzyloxy)phenyl]-2-thiophenyl}-1-propanone
In a manner similar to that of Example 1(i), by reaction of 3.8 g (16.3 mmol) of 1-[4-(3-hydroxyphenyl)-2-thiophenyl]-1-propanone with 16.9 g (18 mmol) of 3,4-bis(benzoyloxymethyl)benzyl bromide and 2.36 g (17 mmol) of potassium carbonate, the desired product is obtained in the form of white crystals (m.p.=117° C.; m=9.1 g; Y=95%).

reactant | 1-[4-(3-hydroxyphenyl)-2-thiophenyl]-1-propanone | 16.3 mmol, 3.8 g | OC=1C=C(C=CC1)C=1C=C(SC1)C(CC)=O | C13H12O2S
reactant | 3,4-bis(benzoyloxymethyl)benzyl bromide | 18 mmol, 16.9 g | C(C1=CC=CC=C1)(=O)OCC=1C=C(CBr)C=CC1COC(C1=CC=CC=C1)=O | C23H19BrO4
reactant | potassium carbonate | 17 mmol, 2.36 g | C([O-])([O-])=O.[K+].[K+]
product | 1-{4-[3-(3,4-Bis(1-phenylmethanoyloxymethyl)-benzyloxy)phenyl]-2-thiophenyl}-1-propanone | C1(=CC=CC=C1)C(=O)OCC=1C=C(COC=2C=C(C=CC2)C=2C=C(SC2)C(CC)=O)C=CC1COC(=O)C1=CC=CC=C1 | C36H30O6S
